US05324842
Preparation of 4-acetylamino-6-methyl-3-oxo-2,3,4,5-tetrahydro-1,2,4-triazine
312 g of 2,3-dihydro-5-methyl-2-oxo-1,3,4-oxadiazol-3-ylacetone in 4 l of ethanol are stirred together with 200 g of hydrazine hydrate for 16 hours at 35° C. The solvent and the excess of hydrazine hydrate are evaporated in vacuo, and the residue is recrystallised from isopropanol to give 148 g (87% of the theoretical amount) of the title compound having a melting point of 197°-199° C.

reactant | 2,3-dihydro-5-methyl-2-oxo-1,3,4-oxadiazol-3-ylacetone | 312 g | CC1=NN(C(O1)=O)CC(C)=O | C6H8N2O3
reactant | hydrazine hydrate | 200 g | O.NN
solvent | ethanol | 4 l | C(C)O | C2H6O
product | 4-acetylamino-6-methyl-3-oxo-2,3,4,5-tetrahydro-1,2,4-triazine | C(C)(=O)NN1C(NN=C(C1)C)=O | C6H10N4O2
